US07109192B2
4c) 1-benzyl-3,4-diamino-pyridin-2-one
3.9 g (15.9 mmol) of 4-amino-1-benzyl-3-nitro-pyridin-2-one, dissolved in 250 ml of tetrahydrofuran, were hydrogenated over platinum oxide at 50 psi of H2 pressure and at ambient temperature. After the catalyst had been filtered off the filtrate was concentrated by evaporation and the residue was further processed in crude form.

reactant | 4-amino-1-benzyl-3-nitro-pyridin-2-one | 15.9 mmol, 3.9 g | NC1=C(C(N(C=C1)CC1=CC=CC=C1)=O)[N+](=O)[O-] | C12H11N3O3
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
catalyst | platinum oxide | [Pt]=O
product | 1-benzyl-3,4-diamino-pyridin-2-one | C(C1=CC=CC=C1)N1C(C(=C(C=C1)N)N)=O | C12H13N3O
